US03988448
The mixture of 6.5 g of 7,7-diphenyl-hexahydro-1,4-oxazepine, 1.2 g of ethylene oxide, 0.5 ml of water and 20 ml of methanol is stirred at 40°-45° for 4 hours and at 50° for 21/2 hours. It is cooled, the precipitate formed, filtered off and recrystallized from benzene-hexane, to yield the 4-(2-hydroxyethyl)-7,7-diphenyl-hexahydro-1,4-oxazepine melting at 122°-123° (its hydrochloride melts at 190°-192°).

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 6.5 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | ethylene oxide | 1.2 g | C1CO1 | C2H4O
reactant | water | 0.5 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-hydroxyethyl)-7,7-diphenyl-hexahydro-1,4-oxazepine | OCCN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23NO2
